US06630461B2
18.1) 3-[(3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(4-hydroxy-3-nitrophenyl)-2-propenamide
1.78 g (6.4 mmoles) of 3,5-di-tert-butyl-4-hydroxycinnamic acid, 0.99 g (6.4 mmoles) of 4-amino-2-nitrophenol, previously diluted in 10 ml of DMF, 0.86 g (6.4 mmoles) of hydroxybenzotriazol and 1.32 g (6.4 mmoles) of dicyclohexylcarbodiimide are introduced into a 50 ml flask containing 10 ml of THF. The reaction medium is agitated for 15 hours at ambient temperature, the precipitate which appears is filtered and rinsed with ethyl acetate. After concentration of the solution under reduced pressure, the residue is diluted in 20 ml of ethyl acetate and the insoluble part is filtered again. The filtrate is washed with 20 ml of a saturated solution of sodium carbonate followed by 20 ml of water and 20 ml of a saturated solution of sodium chloride. After drying over sodium sulphate, the organic solution is filtered and concentrated to dryness under reduced pressure. The residue is purified on a silica column (eluant: heptane/ethyl acetate: 8/2). The pure fractions are collected and concentrated under vacuum to produce 1.95 g (47%) of the expected compound in the form of a yellow-orange powder. Melting point: 231-232° C.

reactant | 3,5-di-tert-butyl-4-hydroxycinnamic acid | 6.4 mmoles, 1.78 g | C(C)(C)(C)C=1C=C(C=CC(=O)O)C=C(C1O)C(C)(C)C | C17H24O3
reactant | 4-amino-2-nitrophenol | 6.4 mmoles, 0.99 g | NC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | hydroxybenzotriazol | 6.4 mmoles, 0.86 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 6.4 mmoles, 1.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(4-hydroxy-3-nitrophenyl)-2-propenamide | 1.95 g, 47% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)NC1=CC(=C(C=C1)O)[N+](=O)[O-])=C | C23H28N2O5
